US04262128
Diethyl 2-((3-oxooctyl)amino)nonanedioate was allowed to react with methyl isocyanate as described in Example 89 to give 5-(6-ethoxycarbonylhexyl)-3-methyl-1-(3-oxooctyl)hydantoin, which was hydrolysed to 5-(6-carboxyhexyl)-3-methyl-1-(3-oxooctyl)hydantoin, a colourless oil.

reactant | Diethyl 2-((3-oxooctyl)amino)nonanedioate | O=C(CCNC(C(=O)OCC)CCCCCCC(=O)OCC)CCCCC | C21H39NO5
reactant | methyl isocyanate | CN=C=O | C2H3NO
product | 5-(6-ethoxycarbonylhexyl)-3-methyl-1-(3-oxooctyl)hydantoin | C(C)OC(=O)CCCCCCC1C(N(C(N1CCC(CCCCC)=O)=O)C)=O | C21H36N2O5
